US06596719B1
According to Example 40) 256 mg 4-tert.-butyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-cyclopropyl-pyrimidin-4-yl]-benzene-sulfonamide was reacted with ethanesulfonylchloride to give 120 mg 4-tert.-butyl-N-[6-(2-ethanesulfonylamino-ethoxy)-5-(o-methoxyphenoxy)-2-cyclopropyl-pyrimidin-4-yl]-benzene-sulfonamide. LC-MS: tR=5.79 min. [M−1]−=603.90.

reactant | 4-tert.-butyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-cyclopropyl-pyrimidin-4-yl]-benzene-sulfonamide | 256 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCN)C1CC1 | C26H32N4O5S
reactant | ethanesulfonylchloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | 4-tert.-butyl-N-[6-(2-ethanesulfonylamino-ethoxy)-5-(o-methoxyphenoxy)-2-cyclopropyl-pyrimidin-4-yl]-benzene-sulfonamide | 120 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCNS(=O)(=O)CC)C1CC1 | C28H36N4O7S2
